Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo male with hx of migraines and depression who presents 
after a syncopal episode at home. The patient was in kitchen, 
next thing he knew he was on the floor. Did not have any 
prodromal symptoms such as CP/SOB, lightheadedness, aura. Did 
not lose control of bowel or bladder. Woke up with nose 
bleeding. He otherwise felt well and denies any fatigue, or 
dizziness. No hx of syncope. He is very active at baseline and 
bikes frequently. Denies any history of CP or shortness of 
breath with activity. The patient reports he has been out 
drinking with friends prior to the event and had a few glasses 
of wine.  
Of note he has a history of several family members, brothers and 
sisters included passing way suddenly from cardiac causes. He 
personally has never been told there are any problems with his 
heart.  He notes he has had 5 faimly member die of heart related 
events. His brother died of an MI in his ___ while in the 
hospital, his sister had a sudden death in the ___ which was 
believed to be heart related. His father had a CABG x3 at age ___ 
and died in his ___ from heart related complications. His mother 
had a ___ death in her ___ while smoking a cigarette, with a 
resultant house fire. He reports he consumes alcohol once a 
month with friends and typically does not get too intoxicated. 
He denies any other acute complaints today. 
 
In the ED, initial vitals were 98.2 88 138/88 16 94%. Labs 
including a trop which was negative x 1 were unremarkable with 
the exception of an ETOH level of 269. CXR showed no acute 
process. CT of the head showed no acute process but maxillofacia 
CT did demonstrate a nasal fracture. EKG was concerning for 
Brugada syndrome and the patient was admitted to cardiology for 
further management. Patient given morphine and dilaudid for 
pain. Vitals on transfer were 98.2 78 129/79 16 96%  
On arrival to the floor, patient patient notes continued nasal 
pain but is otherwise symptom free  
 
REVIEW OF SYSTEMS  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations. 
 
Past Medical History:
depression and migraine.
 
Social History:
___
Family History:
Has had 5 family members die at young age (___) of "heart 
attacks" or "heart failure".  Brother with bipolar depression.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:  
VS- T= 97.4 BP= 141/100 HR=71 RR= 18 O2 sat= 98% RA  
GENERAL- WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT- no septal hematoma (per ED), swelling of the nasal 
bridge.  
NECK- Supple  
BACK: No spinal or paraspinal TTP  
CARDIAC- normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS- CTAB  
ABDOMEN- Soft, NT/ND  
EXTREMITIES- No c/c/e. No femoral bruits.  
NEURO- CN II-XII intact, strength ___ sensation in tact to light 
touch  
PULSES-  
Right: Radial 2+ DP 2+ ___ 2+  
Left: Radial 2+ DP 2+ ___ 2+ 

PHYSICAL EXAM ON DISCHARGE:
VS- T97.7 BP 111/76 (100-140) P 69 RR 18 RR 98%RA Weight 82.6kg
I/O: 500/NR 
GENERAL- NAD. Oriented x3. Mood, affect appropriate, smells of 
alcohol.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. Nasal bridge 
swelling and erythema noted. Nasal bridge tender to palpation, 
no septal hematoma noted inED  
NECK- Supple, normal JVD.  
CARDIAC- RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS- Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness.   
EXTREMITIES- No c/c/e. peripheral pulses are 2+ 
SKIN- No stasis dermatitis, ulcers, or scars
 
Pertinent Results:
___ 07:25PM BLOOD WBC-6.8 RBC-4.84 Hgb-15.5 Hct-45.6 MCV-94 
MCH-32.1* MCHC-34.0 RDW-14.0 Plt ___
___ 07:25PM BLOOD Neuts-60.9 ___ Monos-4.3 Eos-1.6 
Baso-0.9
___ 06:20AM BLOOD Glucose-86 UreaN-14 Creat-0.9 Na-142 
K-4.0 Cl-102 HCO3-30 AnGap-14
___ 07:25PM BLOOD Glucose-84 UreaN-14 Creat-1.0 Na-143 
K-4.2 Cl-103 HCO3-28 AnGap-16
___ 07:25PM BLOOD estGFR-Using this
___ 06:20AM BLOOD cTropnT-<0.01
___ 07:25PM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.3
___ 07:25PM BLOOD Calcium-9.2 Phos-3.4 Mg-2.5
___ 07:25PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:25PM BLOOD HoldBLu-HOLD

CARDIOLOGY:
EKG ___: Sinus rhythm. Right ventricular conduction delay. 
Downsloping ST segment elevation in lead V2. Compared to the 
previous tracing of ___ repolarization abnormality in lead 
V2 is now present. This finding is highly concerning for Brugada 
syndrome as the potential etiology of syncope. 

EKG ___ rhythm. Compared to the previous tracing 
Brugada pattern repolarization abnormalities is again noted in 
lead V2. 

ECHO ___:
Conclusions  
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. There is mild (non-obstructive) focal 
hypertrophy of the basal septum. The left ventricular cavity 
size is normal. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
There is no left ventricular outflow obstruction at rest or with 
Valsalva. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.    

STRESS TEST ___: 
RESTING DATA 
EKG:  SINUS, NSSTTWS   
HEART RATE:  69 BLOOD PRESSURE:  160/80 
  
PROTOCOL ___ - TREADMILL 
STAGE TIME SPEED ELEVATION HEART BLOOD RPP 
  (MIN) (MPH) (%) RATE PRESSURE   
1 ___ 1.7 10 104 158/88 ___ 
2 ___ 2.5 12 125 184/80 ___ 
3 ___ 3.4 14 150 188/74 ___ 
  
TOTAL EXERCISE TIME:  9 % MAX HRT RATE ACHIEVED:  93 
 
SYMPTOMS: NONE   
 
  
INTERPRETATION: This ___ year old man with a family history of 
SCD 
was referred to the lab for arrhythmia evaluation of a Brugada 
like EKG 
in the ER following a negative flecainide challenge. The patient 

exercise for 9 minutes of ___ protocol and stopped for 
fatigue. The 
estimated peak MET capacity was 10.1 which represents an average 

functional capacity for his age. No arm, neck, back or chest 
discomfort 
throughout. At peak exercise, there was 2 mm STE in V2 only with 
no 
other ST segment changes in any other lead throughout the study. 
The 
rhythm was sinus with no ectopy. Appropriate hemodynamic 
response to 
exercise and recovery. 
IMPRESSION: Non-specific ST changes in V2 only in the absence of 

symptoms or ectopy. 
 
EKG ___: Sinus rhythm. Compared to the previous tracing the 
Brugada pattern of repolarization in lead V2 is less prominent. 

RADIOLOGY

CT SINUS/MANDIBLE/MAXILLA ___
IMPRESSION: 
Nasal bone fractures, which may be acute.  Fractures through the 
frontal 
processes of the maxilla on the left and on the right. 

CXR ___: 
IMPRESSION: 
No acute cardiopulmonary process. 

CT HEAD W/ AND W/O CONTRAST ___:
IMPRESSION:  No acute intracranial process.
 
Brief Hospital Course:
___ yo male with history significant for family members with 
sudden cardiac death presents after a syncopal episodes with EKG 
findings concerning for Brugada syndrome vs. Orthostasis.  

# Syncope: Initial presentation was concerning for a malignant 
arrythmia inlight of family history and findings on EKG 
concerning for brugada syndrome. Family history more consistent 
with CAD rather than Brugada, but sister's sudden death is 
questionable. The significance of an normal EKG in ___ is 
unclear. Troponins were negative, ECHO was unremarkable, Stress 
test did not illustrate any coronary pathology, and overnight 
telemetry was with in normal limits. A flecainide study was 
conducted and failed to induce an arrhytmia. Repeat EKG was 
unremarkable. No history or findings to suggest seizure. History 
of orthostasis coupled with alcohol consumption likely resulted 
in syncopal event. 

# Nasal fracture: there was no evidence of septal hematoma. CT 
of sinuses/mandible/maxilla illustrated fractures of the frontal 
processes of the maxilla. Pain was controlled with oxycodone. 
Patient is scheduled with outpatient plastic surgery for nasal 
bridge repair.    

# Depression- Citalopram was held during hospitalization. 
Patient to resume home citalopram on discharge.

TRANSITIONAL ISSUES:
[ ]Patient needs to be counseled on drinking behavior
[ ]Will need to follow up with plastic surgery for nasal bone 
fracture.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine 

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine 
2. Citalopram 20 mg PO DAILY 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4-6hrs Disp #*15 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Fractured nose
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted after losing consciousness. An EKG 
was performed in the emergency room which was concerning for an 
abnormal rhythm. We performed several studies which were not 
consistent with this abnormal EKG, and a repeat EKG was normal.  
You are scheduled to see a cardiologist in a few weeks to make 
sure you continue to do well.

In addition, after falling, you broke your nose. You have an 
appointment to see the plastic surgeons regarding this fracture.

We made the following changes to your medication list:
Please START taking oxycodone 5mg every 4 to 6 hours as needed 
for pain.
Please CONTINUE taking the rest of your medications as 
prescribed.
 
Followup Instructions:
___